US08017646B2
Following the procedure described in example 7§D, but starting from a mixture of trans-2,3-dihydro-6-(3-bromoprop-1-en-1-yl)benzo[1,4]dioxine and 2,3-dihydro-6-(1-bromoallyl)benzo[1,4]dioxine (650 mg), 296 mg of potassium hydroxide (296 mg 85% wt) and 1,3-propanediol (298 μL) in dimethylsulfoxide (1.8 mL) gives 280 mg of trans-2,3-dihydro-6-[3-(3-hydroxypropoxy)prop-1-en-1-yl]benzo[1,4]dioxine as a yellow oil used without further purification.

reactant | trans-2,3-dihydro-6-(3-bromoprop-1-en-1-yl)benzo[1,4]dioxine | BrC/C=C/C1=CC2=C(OCCO2)C=C1 | C11H11BrO2
reactant | 2,3-dihydro-6-(1-bromoallyl)benzo[1,4]dioxine | 650 mg | BrC(C=C)C1=CC2=C(OCCO2)C=C1 | C11H11BrO2
reactant | potassium hydroxide | 296 mg | [OH-].[K+]
reactant | 1,3-propanediol | 298 μL | C(CCO)O | C3H8O2
solvent | dimethylsulfoxide | 1.8 mL | CS(=O)C | C2H6OS
product | trans-2,3-dihydro-6-[3-(3-hydroxypropoxy)prop-1-en-1-yl]benzo[1,4]dioxine | 280 mg | OCCCOC/C=C/C1=CC2=C(OCCO2)C=C1 | C14H18O4
